US04596870
1-(1-Methylimidazol-2-sulfenyl)methyl-5-chloropyrimidin-2-one
2-Chloromethylsulfenyl-1-methylimidazole [see Preparation 10] (10 mmol) in DMF (12 ml) was added to a mixture of 5-chloropyrimidin-2-one hydrochloride (10 mmol) and potassium tert-butoxide (20 mmol) in DMF (72 ml). The mixture was stirred at 60° C. for 51/2 hours before the product was distilled off and the residue washed with water and ether. The product was oily. 1H HMR (DMSO d6, δ): 3.57 (CH3), 5.27 (--CH2 --), 6.95 - 7.22 (imidazole), 8.19 (H-4, d, j 4 Hz), 8.54 (H-6, d, J 4 Hz).

reactant | 2-Chloromethylsulfenyl-1-methylimidazole | 10 mmol | ClCSC=1N(C=CN1)C | C5H7ClN2S
reactant | 5-chloropyrimidin-2-one hydrochloride | 10 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | potassium tert-butoxide | 20 mmol | CC(C)([O-])C.[K+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 72 ml | CN(C)C=O | C3H7NO
product | 1-(1-Methylimidazol-2-sulfenyl)methyl-5-chloropyrimidin-2-one | CN1C(=NC=C1)SCN1C(N=CC(=C1)Cl)=O | C9H9ClN4OS
